US05455237
3,6-bis(2,6-Difluorophenyl)-1,2,4,5-tetrazine
To a solution of 0.9 g of bis[chloro-(2,6-difluorobenzylidene)]hydrazine [prepared in the preceeding step b.)] in 18 ml of tetrahydrofuran of 40° C. temperature, 0.59 ml of hydrazine hydrate is dropped during 1 minute. After filtering, the precipitate is washed with water and dried to give 0.5 g of desired product as yellow crystals.

reactant | bis[chloro-(2,6-difluorobenzylidene)]hydrazine | 0.9 g | ClC(C1=C(C=CC=C1F)F)=NN=C(C1=C(C=CC=C1F)F)Cl | C14H6Cl2F4N2
reactant | hydrazine hydrate | 0.59 ml | O.NN
solvent | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
product | 3,6-bis(2,6-Difluorophenyl)-1,2,4,5-tetrazine | 0.5 g | FC1=C(C(=CC=C1)F)C=1N=NC(=NN1)C1=C(C=CC=C1F)F | C14H6F4N4
